US07968570B2
A mixture of 4-chloro-2-bromomethyl-6-iodo-benzoic acid methyl ester (0.389 g, 1.0 mmol), 4-methoxy-benzylamine (0.169 mL, 1.2 mmol), and K2CO3 (0.276 g, 2.0 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography of the product using 30% ethyl acetate in hexane afforded 5-chloro-7-iodo-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.111 g, 27%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.79 (s, 3H), 4.12 (s, 2H), 4.71 (s, 2H) 6.86 (d, 2H), 7.25 (m, 2H), 7.36 (s, 1H), 7.90 (s, 1H). GC-MS: m/z 413 (M)+, 382 (M−31)+.

reactant | 4-chloro-2-bromomethyl-6-iodo-benzoic acid methyl ester | 1.0 mmol, 0.389 g | COC(C1=C(C=C(C=C1I)Cl)CBr)=O | C9H7BrClIO2
reactant | 4-methoxy-benzylamine | 1.2 mmol, 0.169 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | K2CO3 | 2.0 mmol, 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-7-iodo-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.111 g, 27% | ClC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)OC | C16H13ClINO2
